US08293781B2
5-bromo-3-(2-pyridin-2-ylethyl)-1H-indole
To 5-bromoindole (5.9 g) in acetic acid (10 ml) solution, 2-vinylpyridine (3.6 ml) was added and the mixture was heated and refluxed for 15 hours. The reaction solution was cooled, then was diluted with ethyl acetate, the aqueous layer was made alkaline with 4N-aqueous sodium hydroxide solution and the mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous sodium sulfate, the solvent was distilled off in vacuo, and the residue obtained was purified by silica gel column chromatography (hexane:ethyl acetate=1:1 to 17:33) to afford the above-identified compound (5.6 g).

reactant | 5-bromoindole | 5.9 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 2-vinylpyridine | 3.6 ml | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-(2-pyridin-2-ylethyl)-1H-indole | 5.6 g | BrC=1C=C2C(=CNC2=CC1)CCC1=NC=CC=C1 | C15H13BrN2
